US06562811B1
To a cooled (0° C.) solution of tert-butyl 3-{2-amino-3-({[(cyclohexylamino)-carbonyl]amino}methyl)-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-4-pyridinyl}-1-piperidinecarboxylate(0.039 g, 0.065 mmol), which was obtained in the step (1) of Example 23-3, and triethylamine (15.0 mL, 0.389 mmol) in tetrahydrofuran (10.0 mL) was added dropwise a solution of triphosgene (0.019 g, 0.065 mmol) in tetrahydrofuran (5.0 mL) under an argon atmosphere. The mixture was stirred at 0° C. for 2 hrs. After quenched by water, the mixture was extracted with ethyl acetate. The separated organic phase was washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue (white solid) was triturated with diisopropyl ether, collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to give tert-butyl 3-{3-[(cyclohexylamino)carbonyl]-7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-5-yl}-1-piperidinecarboxylate (0.021 g, yield; 52%).

reactant | tert-butyl 3-{2-amino-3-({[(cyclohexylamino)-carbonyl]amino}methyl)-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-4-pyridinyl}-1-piperidinecarboxylate | 0.065 mmol, 0.039 g | NC1=NC(=CC(=C1CNC(=O)NC1CCCCC1)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1CC1 | C33H47N5O5
reactant | triethylamine | 0.389 mmol, 15.0 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.065 mmol, 0.019 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-{3-[(cyclohexylamino)carbonyl]-7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-5-yl}-1-piperidinecarboxylate | 0.021 g, yield; 52% | C1(CCCCC1)NC(=O)N1C(NC2=C(C1)C(=CC(=N2)C2=C(C=CC=C2O)OCC2CC2)C2CN(CCC2)C(=O)OC(C)(C)C)=O | C34H45N5O6
